US06008230
A mixture of 4-bromomethyl-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline (100 mg), 2-methoxyethylamine (18.7 mg) and N,N-diisopropyl-N-ethylamine (134 mg) in ethylene chloride (1 ml) was stirred for 2 hours at ambient temperature. The mixture was diluted with dichloromethane, washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (methanoldichloromethane) to give 6-(2,6-dichlorobenzoylamino)-2,3-dihydro-2-(2-methoxyethyl)-1H-pyrrolo-[3,4-c]quinolin-3-one (76 mg).

reactant | 4-bromomethyl-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline | 100 mg | BrCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(=O)OCC | C20H15BrCl2N2O3
reactant | 2-methoxyethylamine | 18.7 mg | COCCN | C3H9NO
reactant | N,N-diisopropyl-N-ethylamine | 134 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethylene chloride | 1 ml | C(CCl)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(2,6-dichlorobenzoylamino)-2,3-dihydro-2-(2-methoxyethyl)-1H-pyrrolo-[3,4-c]quinolin-3-one | 76 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(C=NC23)C(N(C4)CCOC)=O)C(=CC=C1)Cl | C21H17Cl2N3O3
